US06740647B1
d) 2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-thioamide [sic]
2-(N-BOC-Aminomethyl)-5-cyano-4-trifluoromethylthiazole [sic] (4.6 g, 14.97 mmol) was dissolved in pyridine (20 ml), triethylamine (24 ml) was added, and the solution was saturated with hydrogen sulfide. After two days at room temperature, the solvent was removed on a rotary evaporator. The crude product was taken up in ethyl acetate and washed in succession with 20% strength sodium hydrogen sulfate solution and water. After drying (MgSO4), the solvent was removed on a rotary evaporator. The crude product was purified by flash chromatography. Yield: 2.5 g (7.32 mmol, 49%).

reactant | 2-(N-BOC-Aminomethyl)-5-cyano-4-trifluoromethylthiazole | 14.97 mmol, 4.6 g | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(F)(F)F)C#N | C11H12F3N3O2S
reactant | triethylamine | 24 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-(N-BOC-Aminomethyl)-4-trifluoromethylthiazole-5-thioamide | C(=O)(OC(C)(C)C)NCC=1SC(=C(N1)C(F)(F)F)C(N)=S | C11H14F3N3O2S2
